US08030478B2
(1) 1-(2-Deoxy-β-D-ribofuranosyl)-4-[3-(6-trifluoroacetamidohexanamido)-1-propynyl]-2-nitropyrrole (Step (a) in FIG. 46)
1-(2-Deoxy-β-D-ribofuranosyl)-4-iodo-2-nitropyrrole (354 mg, 1 mmol, containing α-anomer) was azeotroped twice with anhydrous acetonitrile in a 50 mL flask, followed by addition of copper iodide (31 mg, 160 μmol) and tetrakistriphenylphosphine palladium (0) (58 mg, 50 μmol). After these materials were dissolved in anhydrous DMF (5 mL), triethylamine (210 μL, 1.5 mmol) was added while stirring at room temperature and further stirred at room temperature under light-shielding conditions. To this mixture, a solution of N-(2-propynyl)-6-trifluoroacetamidohexanamide (396 mg, 1.5 mmol) in DMF (4 mL) was added dropwise and stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure, and the resulting crude product was purified by silica gel column chromatography (5-10% CH3OH in CH2Cl2) and C18-HPLC (39-41% CH3CN in H2O, 15 minutes) to give the desired product as an amorphous substance (408 mg, yield 83%).

reactant | 1-(2-Deoxy-β-D-ribofuranosyl)-4-iodo-2-nitropyrrole | 1 mmol, 354 mg | [C@@H]1(C[C@H](O)[C@H](O1)CO)N1C(=CC(=C1)I)[N+](=O)[O-] | C9H11IN2O5
reactant | acetonitrile | C(C)#N | C2H3N
reactant | triethylamine | 1.5 mmol, 210 μL | C(C)N(CC)CC | C6H15N
reactant | N-(2-propynyl)-6-trifluoroacetamidohexanamide | 1.5 mmol, 396 mg | C(C#C)NC(CCCCCNC(C(F)(F)F)=O)=O | C11H15F3N2O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | copper iodide | 160 μmol, 31 mg | [Cu](I)I
product | 1-(2-Deoxy-β-D-ribofuranosyl)-4-[3-(6-trifluoroacetamidohexanamido)-1-propynyl]-2-nitropyrrole | yield 83% | [C@@H]1(C[C@H](O)[C@H](O1)CO)N1C(=CC(=C1)C#CCNC(CCCCCNC(C(F)(F)F)=O)=O)[N+](=O)[O-] | C20H25F3N4O7
